US08563541B2
Intermediate B-2: 4-[(vinyloxy)methyl]cyclohexylacetonitrile
4-[(Vinyloxy)methyl]cyclohexylmethyl methanesulfonate (1.43 g, 0.00576 mol) was dissolved in dimethyl sulfoxide (5 mL, 0.07 mol), and then sodium cyanide (1 g, 0.02 mol) was added. The reaction was stirred at 60° C. for 2 hours at 25° C. for 16 hours. The reaction was extracted with ethyl acetate and the extracts were washed with water, brine 3×, and then dried over MgSO4 and concentrated in vacuo. The product was purified via column chromatography on silica gel (20% ethyl acetate, 80% hexanes) to give 0.90 g of the desired product as a mixture of the two diastereomers. 1H NMR (400 MHz, CDCl3): δ 6.33-6.48 (m, 1H), 4.96-4.13 (m, 1H), 4.00-3.96 (m, 1H), 3.49-3.50 (m, 2H), 2.26 (d, 2H, J=6.8 Hz), 1.86-1.93 (m, 4H), 1.56-1.70 (m, 3H), 1.41-1.52 (m, 1H), 0.95-1.20 (m, 4H). (major isomer).

reactant | 4-[(Vinyloxy)methyl]cyclohexylmethyl methanesulfonate | 0.00576 mol, 1.43 g | CS(=O)(=O)OCC1CCC(CC1)COC=C | C11H20O4S
reactant | dimethyl sulfoxide | 0.07 mol, 5 mL | CS(=O)C | C2H6OS
reactant | sodium cyanide | 0.02 mol, 1 g | [C-]#N.[Na+]
product | 4-[(vinyloxy)methyl]cyclohexylacetonitrile | 0.90 g | C(=C)OCC1CCC(CC1)CC#N | C11H17NO
